US08487093B2
Step 1: tert-butyl 4-({[(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate
To a solution of (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (0.141 g, 0.509 mmol) (note: this intermediate is disclosed in U.S. Pat. No. 7,112,592 Example 32b) in dry dichloromethane (3 mL) was added 4-amino-1-BOC-piperidine (0.1532 g, 0.765 mmol), triethylamine (0.16 mL, 1.148 mmol), HOBT (0.1145 g, 0.748 mmol), and EDC (0.1455 g, 0.759 mmol) sequentially at room temperature under nitrogen. The reaction was stirred at room temperature overnight. The reaction mixture was concentrated under vacuum and the residue was purified by HPLC (30×100 mm Waters Sunfire column; 5 micron; 35 mL/minute; 210 nM; 15% to 100% CH3CN+0.05% TFA/water+0.05% TFA over 15 minutes; desired product elutes at 50% CH3CN+0.05% TFA/water+0.05% TFA) to afford the title compound.

reactant | (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 0.509 mmol, 0.141 g | C1(=CC=CC=C1)CON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | 4-amino-1-BOC-piperidine | 0.765 mmol, 0.1532 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 1.148 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.748 mmol, 0.1145 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.759 mmol, 0.1455 g
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | tert-butyl 4-({[(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C24H34N4O5
